US04551419
Synthesis Example III-2: Synthesis of 1,2,4-Triazolo[3,4-a]-phthalazine-3-thiol (Compound III-6)
In pyridine, was dissolved 25 g of 1-hydrazinophthalazine. Thereto, 13 g of carbon disulfide was added dropwise at a temperature of 0° C. The stirring was continued for 30 minutes and then, the temperature of the reaction mixture was raised to 50° C., and the stirring was continued for additional 1 hour. Thereafter, the temperature was lowered to 0° C. again. Upon the addition of excess triethylamine to the resulting solution, hydrogen sulfide gas began to evolve. The temperature of the reaction system was raised and the refluxing was continued for 3 hours. Thereupon, the evolution of the gas ceased, and the reaction system was cooled. Upon cooling, crystals separated out. The crystals were filtered off, and recrystallized from ethanol. Yield 23 g, Melting Point 270°-280° C.

reactant | 1-hydrazinophthalazine | 25 g | N(N)C1=NN=CC2=CC=CC=C12 | C8H8N4
reactant | carbon disulfide | 13 g | C(=S)=S | CS2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2,4-Triazolo[3,4-a]-phthalazine-3-thiol | N=1N=C(N2C1C1=CC=CC=C1C=N2)S | C9H6N4S
